US04663347
Ethyl 3-(4-hydroxy-3-methylbenzofuran-2-yl)propionate
A mixture of 3-(4-hydroxy-3-methylbenzofuran-2-yl)propionic acid (400 mg, 1.8 mmole) in 1% sulfuric acid in ethanol was kept at room temperature for 18 hours. The mixture was concentrated. The residue was taken up in diethyl ether, washed with water twice, dried with Na2SO4, filtered, concentrated and chromatographed to obtain 280 mg of the title compound, m.p. 61°-63° C.

reactant | 3-(4-hydroxy-3-methylbenzofuran-2-yl)propionic acid | 1.8 mmole, 400 mg | OC1=CC=CC2=C1C(=C(O2)CCC(=O)O)C | C12H12O4
reactant | ethanol | C(C)O | C2H6O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Ethyl 3-(4-hydroxy-3-methylbenzofuran-2-yl)propionate | 280 mg | OC1=CC=CC2=C1C(=C(O2)CCC(=O)OCC)C | C14H16O4
